US08304419B2
Step C: 3-{[3-(Aminomethyl)-2-chloro-6-fluorophenyl]oxy}-5-chlorobenzonitrile
The title compound was prepared as described herein using 3-{[3-(bromomethyl)-2-chloro-6-fluorophenyl]oxy}-5-chlorobenzonitrile (728 mg, 1.941 mmol) and NH3 in MeOH (27.7 ml, 194 mmol, 7.0 N) in CH2Cl2 (20 ml) to give the title compound as a white solid (602 mg, 100%) which was used for the next step without purification. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.37-7.43 (1H, m) 7.34 (1H, s) 7.12-7.21 (2H, m) 6.99 (1H, br. s.) 3.98 (2H, br. s.) 1.65-1.89 (2H, m). LCMS: m/z 311 (M+1).

reactant | 3-{[3-(bromomethyl)-2-chloro-6-fluorophenyl]oxy}-5-chlorobenzonitrile | 1.941 mmol, 728 mg | BrCC=1C(=C(C(=CC1)F)OC=1C=C(C#N)C=C(C1)Cl)Cl | C14H7BrCl2FNO
reactant | NH3 | N | H3N
reactant | MeOH | 194 mmol, 7.0 N, 27.7 ml | CO | CH4O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-{[3-(Aminomethyl)-2-chloro-6-fluorophenyl]oxy}-5-chlorobenzonitrile | 602 mg, 100% | NCC=1C(=C(C(=CC1)F)OC=1C=C(C#N)C=C(C1)Cl)Cl | C14H9Cl2FN2O
